US09212182B2
A RBF was charged with 3′-chloro-3-fluoro-5-methoxy-1,1′-biphenyl (513 mg, 2.168 mmol) and THF (7225 μl) to give a clear solution. The flask was cooled in a dry ice-acetone bath for 10 min, then n-butyllithium (1.8M in hexanes) (1445 μA, 2.60 mmol) was added dropwise. After 30 min, triisopropyl borate (597 μl, 2.60 mmol) was added dropwise, and the cooling bath was removed. After 10 min, the mixture was diluted with 2N aq. NaOH, and the resulting biphasic mixture was stirred for 40 min. The mixture was diluted with water and ether. The layers were separated, and the organic layer was extracted with water (1×). The combined aq. extracts were acidified with 2N aq. HCl (30 mL). The resulting suspension was stirred for 20 min then filtered. The collected solid was washed with water (3×), then dried under a stream of N2 (g) for 1 h to give (3′-chloro-3-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)boronic acid (147 mg, 0.524 mmol, 24.18% yield) as an off-white solid. m/z (ESI) 281.0 (M+H)+.

reactant | 3′-chloro-3-fluoro-5-methoxy-1,1′-biphenyl | 2.168 mmol, 513 mg | ClC=1C=C(C=CC1)C1=CC(=CC(=C1)OC)F | C13H10ClFO
reactant | n-butyllithium | 2.60 mmol, 1.8M | C(CCC)[Li]
reactant | triisopropyl borate | 2.60 mmol, 597 μl | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 7225 μl | C1CCOC1 | C4H8O
product | (3′-chloro-3-fluoro-5-methoxy-[1,1′-biphenyl]-4-yl)boronic acid | 0.524 mmol, 147 mg, 24.18% yield | ClC=1C=C(C=CC1)C1=CC(=C(C(=C1)OC)B(O)O)F | C13H11BClFO3
